US07960563B2
2-Bromo-3-chloro-6-fluorobenzaldehyde (D21)
To a solution of diisopropylamine (5 mL, 35.4 mmol) in THF (30 mL) at 0° C. under argon was added n-butyl lithium (16.5 mL of 1.6 M solution in hexane, 26.4 mmol) slowly over 20 minutes. The mixture was cooled to −75° C. and 2-bromo-1-chloro-4-fluorobenzene (5 g, 23.9 mmol) in THF (20 mL) was added dropwise over 15 mins whilst maintaining the temperature <−70° C. The solution was then stirred at −75° C. for 45 mins and then DMF (2.2 mL, 28.6 mmol) was added over 5 mins. The mixture was stirred at −78° C. for 2 hrs and then allowed to reach room temperature. Water was added and the aqueous layer was extracted with ethyl acetate. The combined extracts were washed with brine and the solvent evaporated. Chromatography (silica gel, ethyl acetate/hexane) gave the title compound (D21) as a yellow solid (3.344 g)

reactant | diisopropylamine | 35.4 mmol, 5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 26.4 mmol, 1.6 M, 16.5 mL | C(CCC)[Li]
reactant | 2-bromo-1-chloro-4-fluorobenzene | 23.9 mmol, 5 g | BrC1=C(C=CC(=C1)F)Cl | C6H3BrClF
reactant | DMF | 28.6 mmol, 2.2 mL | CN(C)C=O | C3H7NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-Bromo-3-chloro-6-fluorobenzaldehyde | 3.344 g | BrC1=C(C=O)C(=CC=C1Cl)F | C7H3BrClFO
